US07488832B2
Step 4: [2-Phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid methyl ester
Chlorotrimethylsilane (275 mmol, 35 uL) is added dropwise to a cooled (0° C.) solution of [2-phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid (228 mmol) in methanol (anhydrous, 150 uL). The reaction is capped and allowed to heat/shake overnight at 65° C. The reaction is concentrated purified by flash chromatography over silica gel (3:1 methanol:methylene chloride). 64 mg of isolated product is confirmed by LCMS.

reactant | Chlorotrimethylsilane | 275 mmol, 35 uL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [2-phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid | 228 mmol | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=C(C=C1)N1CCCCC1)CC(=O)O | C23H24N2O2
solvent | methanol | 150 uL | CO | CH4O
product | [2-Phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid methyl ester | COC(CN1C(=CC=C1C1=CC=C(C=C1)N1CCCCC1)C1=CC=CC=C1)=O | C24H26N2O2
